US07700634B2
To a solution of 1-cyclohexylmethyl-3-(5-hydroxymethyl-[1,2,4]thiadiazol-3-yl)-1H-indole-7-carbonitrile (416 mg, 1.18 mmol) in dichloromethane (40 ml) was added methanesulfonyl chloride (0.110 ml, 1.42 mmol) and triethylamine (0.214 ml, 1.53 mmol) sequentially. The reaction was allowed to stir for 1 h and then poured into a separating funnel. The organics were washed with 2M aqueous sodium carbonate solution (20 ml), brine (20 ml), dried over magnesium sulfate, filtered, and the solvent removed in vacuo to afford methanesulfonic acid 3-(7-cyano-1-cyclohexylmethyl-1H-indol-3-yl)-[1,2,4]thiadiazol-5-ylmethyl ester (503 mg, 1.17 mmol) which was used without further purification.

reactant | 1-cyclohexylmethyl-3-(5-hydroxymethyl-[1,2,4]thiadiazol-3-yl)-1H-indole-7-carbonitrile | 1.18 mmol, 416 mg | C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)C#N)C1=NSC(=N1)CO | C19H20N4OS
reactant | methanesulfonyl chloride | 1.42 mmol, 0.110 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 1.53 mmol, 0.214 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | methanesulfonic acid 3-(7-cyano-1-cyclohexylmethyl-1H-indol-3-yl)-[1,2,4]thiadiazol-5-ylmethyl ester | 1.17 mmol, 503 mg | C(#N)C=1C=CC=C2C(=CN(C12)CC1CCCCC1)C1=NSC(=N1)COS(=O)(=O)C | C20H22N4O3S2
